datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[H:23]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:23])[H:14])[H:13])([H:11])[H:12],12.552
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:26])([H:27])[H:28])=[C:15]([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:23])([H:24])[H:25])([C:14]([H:26])([H:27])[H:28])[C:15]([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])[H:5],38.0744
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](#[C:8][C:9]=[S:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8]#[C:7][H:11])=[S:10],76.9856
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:15]([C:14]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])[H:6],29.4135
[C:0]1([H:4])([H:5])[C:1]([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11].[Cl:12]>>[C:0]1([H:5])[C:1]([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11].[H:4][Cl:12],3.44967
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20],102.7
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[H:9][H:10]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:10])([H:4])([H:5])[H:6].[H:9],112.131
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([C:17]([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:7],57.7392
[C:6]([H:7])([H:8])[H:9].[N:0]([C:1](=[O:2])[H:5])([H:3])[H:4]>>[H:5][C:6]([H:7])([H:8])[H:9].[N:0]([C:1]=[O:2])([H:3])[H:4],37.656
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[S:16])[H:23])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[S:16])[H:23],60.2496
[C:0]([C:1]([C:2]([C:3]([O:4][H:15])([C:5](=[O:6])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:3]([O:4][H:15])(=[C:5]([O:6][H:10])[H:16])[H:14],234.848
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]1[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])[H:13])([H:7])([H:8])[H:9],162.758
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7]>>[C:0]([S:1])([H:2])([H:3])[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7],-9.2048
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[O:19][H:20]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][O:19][H:20],-7.5312
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[C:7](=[C:8]([C:9]([H:14])[H:15])[H:12])([H:10])[H:11],51.8816
[S:0]([S:1][H:3])[H:2].[S:4]>>[H:2][S:4].[S:0][S:1][H:3],-6.19232
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[O:15][H:16]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:12][O:15][H:16],7.0653116
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:11],21.7568
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[O:7][O:8])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:10])[H:11].[O:7][O:8][H:9],123.428
